### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): more API for IsSheafFor

### PR DESCRIPTION
**Pull request by joelriou**
Some more API is added for (pre)sieves and we obtain a few results about how `IsSheafFor` behaves for presheaves on `Over` categories.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 1]
```diff
@@ -795,6 +799,102 @@ theorem isSheafFor_arrows_iff : (ofArrows X π).IsSheafFor P ↔
...
+/-- If `P` is a presheaf of types and `π : (i : I) → X i ⟶ B` is a family
+of morphism, this is the map from `P.obj (op B)` to the subtype of compatible
+families in `P.obj (op (X i))`. -/
+@[simps]
+def Arrows.toCompatible (s : P.obj (op B)) :
+    Subtype (Arrows.Compatible P π) where
+  val i := P.map (π i).op s
+  property i j Z gi gj h := by
+    dsimp
+    simp only [← FunctorToTypes.map_comp_apply, ← op_comp, h]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean]:
```suggestion
  property i j Z gi gj h := by
    simp [← FunctorToTypes.map_comp_apply, ← op_comp, h]
```

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 2]
```diff
@@ -795,6 +799,102 @@ theorem isSheafFor_arrows_iff : (ofArrows X π).IsSheafFor P ↔
...
+    ← Function.Bijective.of_comp_iff _ (P.mapIso (asIso f).symm.op).toEquiv.bijective]
+  convert Iff.rfl using 2
+  ext
+  simp [e, FunctorToTypes.map_comp_apply]
+
+lemma isSheafFor_over_map_op_comp_ofArrows_iff
+    {B B' : C} (p : B ⟶ B') (P : (Over B')ᵒᵖ ⥤ Type w)
+    {X : Over B} {Y : I → Over B} (f : ∀ i, Y i ⟶ X) :
+    IsSheafFor ((Over.map p).op ⋙ P) (Presieve.ofArrows _ f) ↔
+      IsSheafFor P ((Presieve.ofArrows _ (fun i ↦ (Over.map p).map (f i)))) := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean]:
```suggestion
      IsSheafFor P (Presieve.ofArrows _ (fun i ↦ (Over.map p).map (f i))) := by
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 3]
```diff
@@ -795,6 +799,101 @@ theorem isSheafFor_arrows_iff : (ofArrows X π).IsSheafFor P ↔
       (fun i j Z gi gj ↦ hx gi gj (ofArrows.mk _) (ofArrows.mk _))
     exact ⟨t, fun Y f ⟨i⟩ ↦ hA i, fun y hy ↦ ht y (fun i ↦ hy (π i) (ofArrows.mk _))⟩
 
+/-- If `P` is a presheaf of types and `π : (i : I) → X i ⟶ B` is a family
+of morphism, this is the map from `P.obj (op B)` to the subtype of compatible
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean]:
```suggestion
of morphisms, this is the map from `P.obj (op B)` to the subtype of compatible
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
